US09303016B2
Synthesis of 2-(tert-butoxycarbonyl)-2-azatricyclo[3.3.1.13,7]decane-5-carboxylic acid, Intermediate-10
To a 0° C. cooled stirred solution of 2-tert-butyl 5-methyl 2-azatricyclo[3.3.1.13,7]decane-2,5-dicarboxylate, intermediate-9 (0.16 g, 0.5 mmol) dissolved in methanol (3 ml), THF (1 ml) and water (1 ml), LiOH (50 mg, 2 mmol) was added and the resulting reaction mass was stirred at room temperature for 6 hrs. Upon completion of the reaction (reaction monitored by TLC), the solvent present in the reaction mixture was completely removed under vacuum and the crude residue was acidified with saturated citric acid solution and extracted with ethyl acetate (3×15 ml). The organic layer was then washed with brine solution and dried over sodium sulfate and was finally concentrated under vacuum to get intermediate-10 as an oily mass, 0.16 g (95%).

reactant | 2-tert-butyl 5-methyl 2-azatricyclo[3.3.1.13,7]decane-2,5-dicarboxylate | C12N(C3CC(CC(C1)C3)(C2)C(=O)OC)C(=O)OC(C)(C)C | C16H25NO4
reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | water | 1 ml | O | H2O
reactant | LiOH | 2 mmol, 50 mg | [Li+].[OH-]
solvent | methanol | 3 ml | CO | CH4O
product | 2-(tert-butoxycarbonyl)-2-azatricyclo[3.3.1.13,7]decane-5-carboxylic acid | C(C)(C)(C)OC(=O)N1C2CC3CC(CC1C3)(C2)C(=O)O | C15H23NO4
